US05183804
(1) t-Butoxycarbonylglycyl-β-benzyl-L-aspartic acid [Boc-Gly-Asp(OBzl)-OH] (I)
5.3 g (30 mmol) of t-butoxycarbonyl glycine was dissolved in 100 ml of purified THF and 4.6 ml (33 mmol) of triethylamine and 4.33 ml (33 mmol) of isobutyl chloroformate) were added thereto at -15° C. The mixture was stirred at this temperature for 10 minutes. To the resultant solution of a mixed acid anhydride was added a solution which had been prepared by dissolving 8.0 g (36 mmol) of β-benzyl-L-aspartic acid and 5.02 ml (36 mmol) of triethylamine in water and cooling to 0° C. The mixture was then stirred at 0° C. for 1 hour and further at room temperature for 15 hours. After removing the THF by concentration under reduced pressure, cold 10% citric acid was added thereto. The precipitate thus formed was extracted with ethyl acetate twice. The extracts were combined and washed 5 times with one fifth the volume of 5% citric acid and then 10 times with water (one tenth the volume thereof). The solution was dehydrated over anhydrous sodium sulfate and concentrated to dryness. Then the residue was dissolved in ether and precipitated with n-hexane. After repeating this precipitation procedure 3 times, the obtained product was dried, whereby 6.9 g of the titled compound was obtained.

reactant | t-butoxycarbonyl glycine | 30 mmol, 5.3 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | triethylamine | 33 mmol, 4.6 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 33 mmol, 4.33 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | β-benzyl-L-aspartic acid | 36 mmol, 8.0 g | C(C1=CC=CC=C1)C([C@H](N)C(=O)O)C(=O)O | C11H13NO4
reactant | triethylamine | 36 mmol, 5.02 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | t-Butoxycarbonylglycyl-β-benzyl-L-aspartic acid | 6.9 g | C(C)(C)(C)OC(=O)NCC(=O)N[C@@H](C(C(=O)O)CC1=CC=CC=C1)C(=O)O | C18H24N2O7
